US07678820B2
To a solution of 1,3-difluoropropanol (62 mg) in DMF (2.4 ml) was added 60% NaH (19 mg) at −10° C., followed by stirring at −10° C. for 0.5 hour. To this reaction mixture was added 2-{4-[5-(3-chloro-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide (120 mg) at −10° C., followed by stirring at −10° C. for 3 hours. After adding water to the reaction solution, the reaction mixture was extracted with EtOAc, the organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 95:5) to obtain 2-[4-(5-{3-chloro-4-[2-fluoro-1-(fluoromethyl)ethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide (76.9 mg) as a white solid.

reactant | 1,3-difluoropropanol | 62 mg | FC(CCF)O | C3H6F2O
reactant | NaH | 19 mg | [H-].[Na+]
reactant | 2-{4-[5-(3-chloro-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]-1H-indol-1-yl}acetamide | 120 mg | ClC=1C=C(C=CC1F)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N | C18H12ClFN4O2
reactant | water | O | H2O
solvent | DMF | 2.4 ml | CN(C)C=O | C3H7NO
product | 2-[4-(5-{3-chloro-4-[2-fluoro-1-(fluoromethyl)ethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide | 76.9 mg | ClC=1C=C(C=CC1OC(CF)CF)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N | C21H17ClF2N4O3
